US04097525
m-[N,N-Di(n-hexadecyl)aminomethyl]-N-(p-methoxyphenyl)-benzamidine
A mixture of ethyl-m-[N,N-di(n-hexadecyl)aminomethyl]-thiobenzimidate dihydrochloride (1.074 g., 1.5 mmoles), p-anisidine (369 mg., 3.0 mmoles) and chloroform (10 ml.) was held at room temperature for 16 hours. It was then diluted to 400 ml. with chloroform, washed with 1N HCl (2 × 50 ml.), dried (Na2SO4) and evaporated in vacuo to a foam. The foam was crystallized from 1,2-dimethoxyethane [868 mg., 73% yield, Rf .64 (4:1, benzene:ethanol on silicic acid), mp.--forms a gel at 84°-86° C.].

reactant | ethyl-m-[N,N-di(n-hexadecyl)aminomethyl]-thiobenzimidate dihydrochloride | 1.5 mmoles, 1.074 g | Cl.Cl.C(C)SC(C1=CC(=CC=C1)CN(CCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCC)=N
reactant | p-anisidine | 3.0 mmoles, 369 mg | COC1=CC=C(C=C1)N | C7H9NO
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | m-[N,N-Di(n-hexadecyl)aminomethyl]-N-(p-methoxyphenyl)-benzamidine | 73% yield | C(CCCCCCCCCCCCCCC)N(CCCCCCCCCCCCCCCC)CC=1C=C(C(=N)NC2=CC=C(C=C2)OC)C=CC1 | C47H81N3O
